US08563723B2
3-{[Ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methylene]-sulfamoyl}-benzoic acid (Compound 46)
Under N2 atmosphere, 1.0 g 4,N-diethyl-4,5-dihydro-pyrazole-1-carboxamidine was dissolved in 15 mL dry DCM, and 1.14 mL DiPEA and 1.31 g of 3-(chlorosulfonyl)benzoic acid were added. The mixture was stirred overnight at room temperature and evaporated to dryness. The residue was purified by flash chromatography (first column with DCM/MeOH/acetic acid 84:15:1; second column with DCM/MeOH/NH4OH 84:15:1) to yield 0.08 g (4%) of an off-white powder. 1H NMR (400 MHz, CDCl3) δ 0.90 (t, J=7.4 Hz, 3H), 1.14 (t, J=7.2 Hz, 3H), 1.38-1.62 (m, 2H), 3.02-3.18 (m, 1H), 3.27-3.62 (m, 3H), 3.89-4.17 (m, 1H), 6.94 (s, 1H), 7.26 (t, J=7.8 Hz, 1H), 7.89 (d, J=7.8 Hz, 1H), 8.05 (d, J=7.8 Hz, 1H), 8.49 (s, 1H).

reactant | 4,N-diethyl-4,5-dihydro-pyrazole-1-carboxamidine | 1.0 g | C(C)C1C=NN(C1)C(=N)NCC | C8H16N4
reactant | DiPEA | 1.14 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(chlorosulfonyl)benzoic acid | 1.31 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 3-{[Ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methylene]-sulfamoyl}-benzoic acid | 0.08 g, 4% | C(C)NC(N1N=CC(C1)CC)=NS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C15H20N4O4S
